US07439393B2
viii) N-(3-{[({3-[(2-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy)methyl]phenyl}amino)carbonyl]amino}-phenyl)pyridine-3-carboxamide
A solution of N-{3-[({[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]amino}carbonyl)-amino]phenyl}pyridine-3-carboxamide (0.209 g) in anhydrous THF (10 ml) was treated under nitrogen at 20° with potassium trimethylsilanolate (0.217 g). The mixture was heated to 65° for 2.5 h before cooling to room temperature. Phosphate buffer (pH 6.5, 25 ml) was added and the product extracted with EtOAc (3×20 ml). Solvent evaporation in vacuo gave a residue that was purified by SPE. Elution with dichloromethane-EtOH-ammonia (100:8:1 then 50:8:1) followed by solvent evaporation in vacuo gave the title compound (0.109 g). LCMS RT=2.86 min, ES+ve 712 (MH)+.

reactant | N-{3-[({[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]amino}carbonyl)-amino]phenyl}pyridine-3-carboxamide | 0.209 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC=2C=C(C=CC2)NC(=O)C=2C=NC=CC2)C | C41H47N5O8
reactant | potassium trimethylsilanolate | 0.217 g | C[Si]([O-])(C)C.[K+]
reactant | Phosphate | 25 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(3-{[({3-[(2-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy)methyl]phenyl}amino)carbonyl]amino}-phenyl)pyridine-3-carboxamide | 0.109 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC=2C=C(C=CC2)NC(=O)C=2C=NC=CC2)O)C | C40H49N5O7
